US04542134
(a) 4-diisopropylamino 2-(2-pyridyl)butyronitrile
8 g of 2-pyridyl acetonitrile, 8.8 g of 1-chloro 2-diisopropylamino ethane and 0.27 g of benzyltrimethylammonium chloride are mixed, then, maintaining the temperature below 35° C., 35 ml of 50% sodium hydroxide solution are added. The mixture is heated to 35° C. for 5 hours. After cooling, it is diluted with water and extracted with ether. The organic phase is separated and dried over sodium sulfate, then the solvent is evaporated to dryness.

reactant | 2-pyridyl acetonitrile | 8 g | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | 1-chloro 2-diisopropylamino ethane | 8.8 g | ClCCN(C(C)C)C(C)C | C8H18ClN
reactant | sodium hydroxide | 35 ml | [OH-].[Na+]
catalyst | benzyltrimethylammonium chloride | 0.27 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | O | H2O
product | 4-diisopropylamino 2-(2-pyridyl)butyronitrile | C(C)(C)N(CCC(C#N)C1=NC=CC=C1)C(C)C | C15H23N3
